US08048902B2
Synthesis of 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-3-carboxylic acid (Compound 22)
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.200 g, 0.46 mmol), 3-carboxyphenylboronic acid (0.092 g, 0.55 mmol), and potassium carbonate (0.190 g, 1.37 mmol) were combined in 2:1 DME:water (5 mL), and the solution was purged with N2 for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.053 g, 0.05 mmol) was added, and the reaction was purged with N2 for an additional 10 minutes, and then sealed and stirred at 80° C. overnight. The mixture was partitioned between EtOAc and water, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.46 mmol, 0.200 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | 3-carboxyphenylboronic acid | 0.55 mmol, 0.092 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | potassium carbonate | 1.37 mmol, 0.190 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.053 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-3-carboxylic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C26H21ClN2O5
